US05753661
A solution of 2-cyclohexylsulfonylethanol (22 g) and triethylamine (30 ml) in methylene chloride (200 ml) was treated dropwise with a solution of methanesulfonyl chloride (15 ml) in methylene chloride (100 ml) at 10° C. After stirring for 2 h at room temperature the mixture was washed with water, dried over magnesium sulfate and concentrated in vacuo leaving the product, cyclohexyl vinyl sulfone, as an oil (19 g).

reactant | 2-cyclohexylsulfonylethanol | 22 g | C1(CCCCC1)S(=O)(=O)CCO | C8H16O3S
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 15 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | cyclohexyl vinyl sulfone | C(=C)S(=O)(=O)C1CCCCC1 | C8H14O2S
